US05885994
6-(4-p-Tolylpiperazin-1-ylmethyl)-1,2,3,4-tetrahydroquinoxaline
Example 8 was prepared according to Example 2 except that in Step A 1-(p-tolyl)piperazine is substituted for 1-(3,4-dimethylphenyl)piperazine; mp 143°-145° C.

reactant | 1-(p-tolyl)piperazine | C1(=CC=C(C=C1)N1CCNCC1)C | C11H16N2
reactant | 1-(3,4-dimethylphenyl)piperazine | CC=1C=C(C=CC1C)N1CCNCC1 | C12H18N2
product | 6-(4-p-Tolylpiperazin-1-ylmethyl)-1,2,3,4-tetrahydroquinoxaline | C1(=CC=C(C=C1)N1CCN(CC1)CC=1C=C2NCCNC2=CC1)C | C20H26N4
